US08278316B2
B. (E)-6-(4-chlorostyryl)pyrimidin-4(3H)-one
A mixture of (E)-4-chloro-6-(4-chlorostyryl)pyrimidine Part A (120 mg, 0.48 mmol), DABCO (107 mg, 0.96 mmol), and potassium carbonate (660 mg, 4.78 mmol) in Dioxane (0.4 mL) and Water (4 mL) was stirred at 60° C. overnight. The reaction was cooled to RT, acidified with 10% HCl, extracted with EtOAC, dried (Na2SO4), and concentrated. The product was triturated with DCM to afford the desired product (E)-6-(4-chlorostyryl)pyrimidin-4(3H)-one 20B (108 mg, 0.46 mmol, 97% yield) as a light yellow solid.

reactant | (E)-4-chloro-6-(4-chlorostyryl)pyrimidine | ClC1=NC=NC(=C1)\C=C\C1=CC=C(C=C1)Cl | C12H8Cl2N2
reactant | DABCO | 0.96 mmol, 107 mg | C1CN2CCN1CC2 | C6H12N2
reactant | potassium carbonate | 4.78 mmol, 660 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | Dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
solvent | Water | 4 mL | O | H2O
product | (E)-6-(4-chlorostyryl)pyrimidin-4(3H)-one | 0.46 mmol, 108 mg, 97% yield | ClC1=CC=C(/C=C/C2=CC(NC=N2)=O)C=C1 | C12H9ClN2O
